US07368578B2
To a mixture of (3-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}phenyl)methanol (8.0 g) and toluene (100 mL) was added thionyl chloride (4.00 g), and the mixture was heated under reflux for 2 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (1:4, v/v) to give {4-[(3-chloromethylphenoxy)methyl]-2-(2-furyl)-5-methyl-1,3-oxazole as a colorless oil (8.40 g, yield 99%).

reactant | (3-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}phenyl)methanol | 8.0 g | O1C(=CC=C1)C=1OC(=C(N1)COC=1C=C(C=CC1)CO)C | C16H15NO4
reactant | thionyl chloride | 4.00 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(3-chloromethylphenoxy)methyl]-2-(2-furyl)-5-methyl-1,3-oxazole | 8.40 g, yield 99% | ClCC=1C=C(OCC=2N=C(OC2C)C=2OC=CC2)C=CC1 | C16H14ClNO3
